US08496997B2
3.5 Fabrication of PHEA Thin Film Via ARGET ATRP Procedure
A solution of Cu(I) catalyst at 1 mM and PHEA-MA at 1 mM (30 mg/mL) was prepared by dissolution of Cu(II)Br (2.35 mg, 10 μmol), PMDETA (6 μL, 30 μmol), sodium ascorbate (39.6 mg, 200 μmol) and PHEA-MA (300 mg, 10 μmol) in 10 mL of milli-Q water solution. The solution was then filtered with a 0.45 μm filter (Acrodisc Syringe Filter). Si wafers coated with the initiator layers were immersed vertically into the Cu(I) catalyst/PHEA-MA solution and allowed to polymerize for a predetermined time. To quench the reaction, the slides were washed 3 times with milli-Q water, soaked overnight in milli-Q water and then dried under air flow before ellipsometry or AFM analysis.

reactant | PMDETA | 30 μmol, 6 μL | CN(C)CCN(C)CCN(C)C | C9H23N3
reactant | sodium ascorbate | 200 μmol, 39.6 mg | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
solvent | water | 10 mL | O | H2O
product | PHEA | C1=CC=C(C=C1)CCN | C8H11N
